US05380857
(a) Production of 7-cyanoindoline
22 g of BCl3 (187.8 mmol) in 120 ml of toluene (dried) was dissolved in a 750 ml round flask at -20°. 15.9 g of indoline (133.4 mmol) in 100 ml of toluene was added within 25 minutes and the temperature rose to 10°. This suspension was refluxed for 1 hour, then 110 ml of toluene was distilled off and the reaction mixture was cooled to 55° C. Then 38.4 g of trichloroacetonitrile (266 mmol) was added within 20 minutes and the resulting red solution was stirred for 20 hours at 60° C. After addition of methanol (110 ml) the reaction mixture was mixed within 1.5 hours with 60 g of a 30 percent methanolic sodium methanolate solution. After 1 hour of stirring the methanol was distilled off in a vacuum and then toluene (300 ml) and water (300 ml) were added. The aqueous phase was extracted several times with 200 ml of toluene. The combined toluene extracts were then washed with a 0.12N HCl (91 ml) and with water to remove the not reacted indoline. After concentration by evaporation of toluene 20.12 g of a brownish oil was obtained. The latter was then recrystallized in a hexane/pentanol mixture (80 ml; mixture ratio of hexane: pentanol=9:7) to obtain 11.47 g of a light brownish product with a purity of 99.4 percent corresponding to a yield of 60.5 percent relative to feedstock used. Other data concerning the product was:

reactant | BCl3 | 187.8 mmol, 22 g | B(Cl)(Cl)Cl | BCl3
reactant | indoline | 133.4 mmol, 15.9 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | trichloroacetonitrile | 266 mmol, 38.4 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | sodium methanolate | C[O-].[Na+]
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | methanol | 110 ml | CO | CH4O
product | 7-cyanoindoline | 11.47 g, yield of 60.5 percent | C(#N)C=1C=CC=C2CCNC12 | C9H8N2
